US06391918B1
A mixture of 4.78 g (25.0 mmol) 4-(2-isocyano-ethyl)-1,2-dimethoxy-benzene, 4.5 g (30 mmol) piperonal, 3.15 g (50 mmol) ammonium formiate in 25 ml methanol (which has been previously purged by a nitrogen stream) is heated at reflux for 18 hours. The solution is cooled to 0° C. and 10 ml HCl 10M in methanol is added. The reaction mixture is stirred at RT for 10 hours. The mixture is then extracted with 2 fold 150 ml ice-cooled water. The water phase is made basic by the addition of NaOH 2N (pH=14) and is extracted with ethyl acetate. 7.33 g (82%) 2-amino-2-benzo[1,3]dioxol-5-yl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]acetamide is isolated as an orange oil which is further reacted without purification. 1.9 g (5.3 mmol) 2-amino-2-benzo[1,3]dioxol-5-yl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-acetamide is dissolved in 20 ml THF and cooled to 0° C. 0.8 ml (7.42 mmol) N,N-dimethyl-sulfamoyl chloride and 2.22 ml (15.9 mmol) triethylamine are added and the mixture is stirred 15 hours at RT. After dilution with ethyl acetate, the mixture is extracted with ice-cooled water. Evaporation of the solvent give an oil which is crystallized in toluene to give 1.08 g (44%) 2-benzo[1,3]dioxol-5-yl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]-2-(N′,N′-dimethylsulfamido)-acetamide (cmpd. Tab.14,B.241) as a white solid (m.p. 137.5-139° C.). From the mother liquor 0.85 g (35%) compound is further isolated.

reactant | 4-(2-isocyano-ethyl)-1,2-dimethoxy-benzene | 25.0 mmol, 4.78 g | [N+](#[C-])CCC1=CC(=C(C=C1)OC)OC | C11H13NO2
reactant | piperonal | 30 mmol, 4.5 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | ammonium formiate | 50 mmol, 3.15 g | C(=O)[O-].[NH4+]
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-2-benzo[1,3]dioxol-5-yl-N-[2-(3,4-dimethoxy-phenyl)-ethyl]acetamide | 7.33 g, 82% | NC(C(=O)NCCC1=CC(=C(C=C1)OC)OC)C1=CC2=C(OCO2)C=C1 | C19H22N2O5
